US07432256B2
e) 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-5-trifluoromethoxy-benzonitrile
In analogy to example 5b, 5-trifluoromethoxy-2-(4-methyl-imidazol-1-yl)-benzonitrile (+regioisomer) was reacted with Eschenmoser's salt in DMF for 24 h at 90° C. Evaporation of the solvent, aqueous workup and chromatography afforded the title compound as a colorless oil that was sufficiently pure to be used in the next step (yield: 38%). 1H-NMR (300 MHz, DMSO): δ=1.93 (s, 6H), 2.17 (s, 3H), 3.21 (s, 2H), 7.80-7.95 (m, 3H), 8.22 (s, 1H).

reactant | 5-trifluoromethoxy-2-(4-methyl-imidazol-1-yl)-benzonitrile | FC(OC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C)(F)F | C12H8F3N3O
reactant | Eschenmoser's salt | C[N+](=C)C.[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-5-trifluoromethoxy-benzonitrile | yield: 38% | CN(C)CC1=C(N=CN1C1=C(C#N)C=C(C=C1)OC(F)(F)F)C | C15H15F3N4O
